US04703054
2-Isopropyl-1-[2-(2-oxo-1-pyrrolidineacetamido)acetyl]4-imidazolidinone
A mixture of ethyl 2-oxo-1-pyrrolidineacetate (7 g) and 1-(2-aminoacetyl)-2-isopropyl-4-imidazolidinone (4 g) was heated at 110° C. for 8 hours. After cooling the oily residue was chromatographed on a silica gel column (eluant dichloromethane/methanol 9:1). The selected fractions were collected, evaporated under vacuum and the residue was triturated with diisopropyl ether to yield 2.6 g of the title compound, m.p. 104°-106° C. Mass spectrum (E.I., 70 eV, 1.5 mA), m/z=310 (M.+), 267 (M.+ --C3H7).

reactant | ethyl 2-oxo-1-pyrrolidineacetate | 7 g | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 1-(2-aminoacetyl)-2-isopropyl-4-imidazolidinone | 4 g | NCC(=O)N1C(NC(C1)=O)C(C)C | C8H15N3O2
product | 2-Isopropyl-1-[2-(2-oxo-1-pyrrolidineacetamido)acetyl]4-imidazolidinone | 2.6 g | C(C)(C)C1N(CC(N1)=O)C(CNC(CN1C(CCC1)=O)=O)=O | C14H22N4O4
